US08198456B2
A mixture of 5-iodoindazole (10 g, 41 mmol), HCOONa (5.57 g, 82 mmol) and PdCl2(PPh3)2 (1.44 g, 2.05 mmol) in DMF (60 mL) was put under vacuum and charged with carbon monoxide (CO). This process was repeated three times, after which the mixture was kept at 110° C. for 6 hr. After cooling to room temperature (rt), the reaction mixture was diluted with brine and extracted with EtOAc. The organic phases were combined, washed with brine, dried, and concentrated. The crude product was purified by column chromatography to afford 1H-indazole-5-carboxaldehyde (3.52 g, 59%) as a white solid.

reactant | 5-iodoindazole | 41 mmol, 10 g | IC=1C=C2C=NNC2=CC1 | C7H5IN2
reactant | HCOONa | 82 mmol, 5.57 g | C(=O)O[Na]
reactant | carbon monoxide | [C]=O | CO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | PdCl2(PPh3)2 | 2.05 mmol, 1.44 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1H-indazole-5-carboxaldehyde | 3.52 g, 59% | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
